### PR TITLE
[Merged by Bors] - feat: add `Filter.HasBasis.iInf_of_finite`

### PR DESCRIPTION
**Pull request by j-loreaux**
---

I find it very hard to believe we don't have this already, but [loogle](https://loogle.lean-lang.org/?q=%7C-+Filter.HasBasis+%28iInf+_%29+_+_) tells me we don't.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Bases/Finite.lean [hunk 1]
```diff
@@ -85,6 +85,26 @@ protected theorem HasBasis.iInf {ι : Type*} {ι' : ι → Type*} {l : ι → Fi
...
+    {l : ι → Filter α} {p : ∀ i, ι' i → Prop} {s : ∀ i, ι' i → Set α}
+    (hl : ∀ i, (l i).HasBasis (p i) (s i)) :
+    (⨅ i, l i).HasBasis (fun f : ∀ i, ι' i ↦ ∀ i, p i (f i)) fun f ↦ ⋂ i, s i (f i) := by
+  refine ⟨fun t ↦ ⟨fun ht ↦ ?_, fun ⟨f, hf, hsub⟩ ↦ ?_⟩⟩
+  · obtain ⟨u, hu, rfl⟩ := (mem_iInf_of_finite t).1 ht
+    choose f hf hsub using fun i ↦ (hl i).mem_iff.1 (hu i)
+    exact ⟨f, hf, iInter_mono hsub⟩
+  · exact mem_of_superset (iInter_mem.2 fun i ↦ mem_iInf_of_mem i <| (hl i).mem_of_mem (hf i)) hsub
+
+theorem HasBasis.biInf_of_finset {ι : Type*} {ι' : ι → Type*} (I : Finset ι)
```
Comment (b-mehta) [inline Mathlib/Order/Filter/Bases/Finite.lean]:
```suggestion
theorem HasBasis.biInf_finset {ι : Type*} {ι' : ι → Type*} (I : Finset ι)
```
imo, since the finset isn't really an assumption, instead we're talking biInf of a finset

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+
